US07888374B2
2-Isopropoxy-6-methyl-nicotinonitrile
To a stirred solution of 2-hydroxy-6-methyl-nicotinonitrile (10.1 g, 75.3 mmol) in 150 mL of absolute EtOH as added KOH (4.97 g, 75.3 mmol). The resulting mixture was heated at 80° C. for 2 h before it was cooled to ambient temperature. The solvent was removed in vacuo and the resulting residue was dried in a vacuum oven for over night. A suspension of the hydroxy pyridine potassium salt in 75 mL of anhydrous DMF was heated at 120° C. while 2-iodopropane (6.0 mL, 90.3 mmol) was added in portions. After 90 min at 120° C., TLC indicated the complete consumption of the starting material. Cooled and 100 mL of water was added to the mixture. The yellow solid was collected through filtration, washed with cold water and dried in vacuum oven to provide the titled compound as a light yellow solid (10.2 g, 77%).

reactant | 2-hydroxy-6-methyl-nicotinonitrile | 75.3 mmol, 10.1 g | OC1=C(C#N)C=CC(=N1)C | C7H6N2O
reactant | KOH | 75.3 mmol, 4.97 g | [OH-].[K+]
reactant | 2-iodopropane | 90.3 mmol, 6.0 mL | IC(C)C | C3H7I
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-Isopropoxy-6-methyl-nicotinonitrile | 10.2 g, 77% | C(C)(C)OC1=C(C#N)C=CC(=N1)C | C10H12N2O
